US04147780
10 parts of freshly distilled p-methoxyphenylacetaldehyde in 20 parts of sodium-dried dioxan was added to a suspension of 17 parts of benzhydrylammonium hypophosphite in 100 parts of sodium-dried dioxan under reflux and under nitrogen as in Example 17 above. 70 Parts dioxan/water was removed. 125 Parts of alcohol was added and DL-1-benzhydrylamino-2-(4-methoxyphenyl)-ethanephosphonous acid, melting point 199°-202°, was obtained.

reactant | p-methoxyphenylacetaldehyde | COC1=CC=C(C=C1)CC=O | C9H10O2
reactant | sodium | [Na] | Na
reactant | benzhydrylammonium hypophosphite | [PH2](=O)[O-].C(C1=CC=CC=C1)(C1=CC=CC=C1)[NH3+]
product | 1-benzhydrylamino-2-(4-methoxyphenyl)-ethanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(CC1=CC=C(C=C1)OC)P(O)O | C22H24NO3P
